### ISSUE TITLE
Kernel stack overflow with UInt64 arithmetic

### ISSUE THREAD

**Issue by logical-misha** [leanprover/lean4#11544]
## Description

The kernel overflows when checking certain proof terms involving UInt64 arithmetic with large literals.

### Minimal reproduction

```lean
-- Crashes (stack overflow)
theorem crashes (a b : UInt64) (h : a = b) :
  (fun x => if x < x + (-15 : UInt64) then x else 0) a =
  (fun x => if x < x + (-15 : UInt64) then x else 0) b :=
  Eq.ndrec rfl h

-- Works
theorem works (a b : UInt64) (h : a = b) :
  (if a < a + (-15 : UInt64) then a else 0) =
  (if b < b + (-15 : UInt64) then b else 0) :=
  ite_congr (congr (congrArg (· < ·) h) (congrArg (· + -15) h)) (fun _ => h) (fun _ => rfl)
```

### Observation: operand order affects behavior

Swapping operand order avoids the stack overflow (though the proof then fails for a different reason):

```lean
-- Does NOT stack overflow (fails with type mismatch instead)
theorem no_overflow (a b : UInt64) (h : a = b) :
  (fun x => if x < (-15 : UInt64) + x then x else 0) a =
  (fun x => if x < (-15 : UInt64) + x then x else 0) b :=
  Eq.ndrec rfl h
```

The only difference is `x + (-15)` vs `(-15) + x`.

### How I ran into this

I discovered this issue while using `simp` with an unfold lemma:

```lean
def myCond (x : UInt64) : Prop := x < x + (-15 : UInt64)
instance : Decidable (myCond x) := by unfold myCond; exact inferInstance
@[simp] theorem myCond_unfold : myCond x = (x < x + -15) := rfl

-- Works
theorem works (a b : UInt64) (h : a = b) :
  (if myCond a then a else 0) = (if myCond b then b else 0) := by simp only [h]

-- Crashes (stack overflow)
theorem crashes (a b : UInt64) (h : a = b) :
  (if myCond a then a else 0) = (if myCond b then b else 0) := by simp only [myCond_unfold, h]
```

### Versions

- Lean 4.25.2

### Related discussion

[Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.23.20Kernel.20stack.20overflow.20with.20UInt64.20comparisons.20in.20certain.20p/with/562366566)

**Comment by logical-misha** [comment]
This issue is the **same class of bug** as #4413 (fixed in PR #4421).

### Root Cause

`Nat.add` is defined with recursion on the **second** argument:

```lean
protected def Nat.add : Nat → Nat → Nat
  | a, Nat.zero   => a
  | a, Nat.succ b => Nat.succ (Nat.add a b)  -- Recurses on SECOND argument
```

When the elaborator reduces `Nat.add stuck_variable large_literal`:
1. Pattern match on second arg succeeds: `large_literal = Nat.succ (large_literal - 1)`
2. Reduces to `Nat.succ (Nat.add stuck_var (large_literal - 1))`
3. Repeats O(n) times where n is the literal value

For `-1 : UInt64 = 2^64 - 1 ≈ 1.8 × 10^19`, this causes ~10^19 recursive calls → stack overflow.

### Connection to #4413

Issue #4413 had the same problem with `Fin.sub`. The fix in PR #4421 swapped operand order:

```lean
-- OLD (pathological): (n - b) is large literal, placed as second arg
⟨(a + (n - b)) % n, ...⟩

-- FIX: swap so variable `a` becomes second arg
⟨((n - b) + a) % n, ...⟩
```

This fix relies on the fact that `Nat.add` is defined using recursion on the second argument.

### Proposed Fix

Add a guard in the elaborator's WHNF (`src/Lean/Meta/WHNF.lean`) that detects `Nat.add stuck large_literal` and refuses to unfold:

```lean
private def isStuckNatOp? (e : Expr) : MetaM Bool := do
  let .app (.app (.const fn _) _a1) a2 := e | return false
  unless fn == ``Nat.add || fn == ``Nat.mul do return false
  let a2' ← whnf a2
  match a2' with
  | .lit (.natVal n) => return n > 1000  -- Threshold for pathological cases
  | _ => return false
```

This turns a **stack overflow crash** into a **graceful type error**. The approach is consistent with #5192/PR #5182 (making WF recursion kernel-irreducible to prevent similar deep recursion).

---

**Related issues:**
- #4413 - `Fin.sub` causes simp to hang (same root cause)
- #4421 - PR that fixed #4413 (operand swap approach)
- #4579 - Regression from #4421 in `bv_omega`
- #5192 - WF recursion kernel-irreducible (similar fix pattern)
